US08648066B2
A mixture of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1,4-benzoxazepine trifluoroacetate salt (2.9 g, 8.00 mmol, 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine (reagent preparation 5) (1.9 g, 8.00 mmol) and N,N-diisopropylethylamine (7.0 mL, 40.0 mmol) in N-methyl-2-pyrrolidone (10 mL) was reacted in a microwave apparatus (250 W) for 2 h at 150° C. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (500 mL) and brine (100 mL). The organic layer was separated, washed with brine (100 mL), dried over sodium sulfate then filtered and concentrated. Column chromatography of the residue on silica (gradient 20 to 40% ethyl acetate in hexane) gave 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (1.6 g, 42% yield). 1H NMR (400 MHz, DMSO-D6): 8.58 (s, 1H), 7.62 (dd, 1H), 7.08 (m, 4H), 7.02 (d, 1H), 6.96 (d, 1H), 4.36 (s, 2H), 4.30 (m, 2H), 3.92 (s, 2H), 3.84 (m, 2H), 2.26 (s, 3H), 1.36 (s, 12H); MS (EI) for C27H31BFN3O3: 476 (MH+).

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1,4-benzoxazepine trifluoroacetate salt | FC(C(=O)O)(F)F.CC1(OB(OC1(C)C)C=1C=CC2=C(C=NCCO2)C1)C
reactant | 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine | 8.00 mmol, 1.9 g | ClC1=NC=NC(=C1CC1=CC=C(C=C1)F)C | C12H10ClFN2
reactant | N,N-diisopropylethylamine | 40.0 mmol, 7.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 1.6 g, 42% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C27H31BFN3O3
